* Created in LTspice Version XVII                               *
*                                            					*
* GaN Systems Inc. Power Transistors                            *
* LTSpice Library for GaN Transistors                           *
* Version 4.1                                                   *
*                                                               *
*****************************************************************
*****************************************************************
*                                                               *
* Models provided by GaN Systems Inc. are not warranted by      *
* GaN Systems Inc. as                                           *
* fully representing all of the specifications and operating    *
* characteristics of the semiconductor product to which the     *
* model relates. The model describe the characteristics of a    *
* typical device.                                               *
* In all cases, the current data sheet information for a given  *
* device is the final design guideline and the only actual      *
* performance specification.                                    *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions, nor are they intended to replace bread-       *
* boarding for final verification. GaN Systems Inc. therefore   *
* does not assume any liability arising from their use.         *
* GaN Systems Inc. reserves the right to change models without  *
* prior notice.                                                 *
*                                                               *
* This library contains models of the following GaN Systems     *
* Inc. transistors:                                             *
*                                                               *
*   GS61008T                                                    *
*****************************************************************
*Level 1. Optimized for simulation speed
*$
*$
.subckt GaN_LTspice_GS61008T_L1V4P1 gatein drainin sourcein
*
*
.param rTC=-0.004  gan_res={4.38e-03}		metal_res={2.0e-3}   gtc=2.8 sh_s=0.239   sh_d=0.761
.param  cur=0.089   x0_0=1.1	  x0_1=1.1  x0_2=1.0  thr=1.8  itc=0.83 atc=180.15
*
*
rd drainin drain { sh_d* (metal_res/2.0*(1-1*rTc*(Temp-25)) + gan_res*PWR((Temp+273)/298,gtc)) }
rs sourcein source { sh_s * (metal_res/2.0*(1-1*rTc*(Temp-25)) + gan_res*PWR((Temp+273)/298,gtc)) }
rg gatein gate {1.5}
*
*
Rcsdconv drain source {4000Meg}
Rcgsconv gate source {4000Meg}
Rcgdconv gate drain {4000Meg}
*
*
bswitch drain2 source2 I = (if(v(drain2,source2)>0,
+   (cur*(-(Temp-25)*itc+atc)*log(1.0+exp(26*(v(gate,source2)-thr)))*
+	v(drain2,source2)/(1 + max(x0_0+x0_1*(v(gate,source2)+x0_2),0.2)*v(drain2,source2))),

+   (-cur*(-(Temp-25)*itc+atc)*log(1.0+exp(26*(v(gate,drain2)-thr)))*
+	v(source2, drain2)/(1 + max(x0_0+x0_1*(v(gate,drain2)+x0_2),0.2)*v(source2,drain2)))))
*
*
R_drain2 drain2 drain {(1e-7)}
R_source2 source2 source {(1e-7)}
*
*
C_GS	 gate source  	{6.04e-10}
C_GS1 gate source Q = ( - 14.08e-11*(1-1./(1+exp(0.32*(-v(drain, source)+8.0))))
+                       - 1.653e-11*(1-1./(1+exp(0.029*(-v(drain, source)+80.0))))
+    				    - 1.5e-10*(-1+1./(1+exp(0.16*(-v(drain, source)-2.1)))) )*x
*
*
C_GS2 gate source   Q = ( 1.0e-010*log(1+exp(6.1*(x-2.2))))
*
*
C_GD   gate drain  	{0.6e-012}
C_GD1  gate drain Q = ( 44e-11*log(1+exp(0.32*(x+8)))+
+					 57e-11*log(1+exp(0.029*(x+80))) )
*
*
C_SD	 source drain  	{2.18e-010}
C_SD1	source drain Q = ( 44e-11*log(1+exp(0.32*(x+8)))+
+						   57e-11*log(1+exp(0.029*(x+80)))+
+						   1.95e-10*log(1+exp(1.19*(x+16)))+
+						   1.69e-9*log(1+exp(0.07*(x+31))) )
*
*
.ends
*$
