* PSpice                             							*
*                                            					*
* GaN Systems Inc. Power Transistors                            *
* PSpice Library for GaN Transistors                            *
* Version 4.1                                                   *
*                                                               *
*****************************************************************
*****************************************************************
*                                                               *
* Models provided by GaN Systems Inc. are not warranted by      *
* GaN Systems Inc. as                                           *
* fully representing all of the specifications and operating    *
* characteristics of the semiconductor product to which the     *
* model relates. The model describe the characteristics of a    *
* typical device.                                               *
* In all cases, the current data sheet information for a given  *
* device is the final design guideline and the only actual      *
* performance specification.                                    *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions, nor are they intended to replace bread-       *
* boarding for final verification. GaN Systems Inc. therefore   *
* does not assume any liability arising from their use.         *
* GaN Systems Inc. reserves the right to change models without  *
* prior notice.                                                 *
*                                                               *
* This library contains models of the following GaN Systems     *
* Inc. transistors:                                             *
*                                                               *
*   GS66516T                                                    *
*****************************************************************
*Level 1. Optimized for simulation speed
*$
*$
.subckt GaN_PSpice_GS66516T_L1V4P1 gatein drainin sourcein
*
*
.param rTC=-0.004  gan_res={22.4e-3}		metal_res={2.0e-3}   gtc=2.85 sh_s = 0.05263   sh_d = 0.94376
.param  cur=.105   x0_0=1.1	  x0_1=1.1  x0_2=1.0  thr = 1.61  itc=0.798 atc=174.1
*
*
rd drainin drain { sh_d* (metal_res/2.0*(1-1*rTc*(Temp-25)) + gan_res*PWR((Temp+273)/298,gtc)) }
rs sourcein source { sh_s * (metal_res/2.0*(1-1*rTc*(Temp-25)) + gan_res*PWR((Temp+273)/298,gtc)) }

rg gatein gate {0.5}
*
*
Rcsdconv drain source {4000Meg}
Rcgsconv gate source {4000Meg}
Rcgdconv gate drain {4000Meg}
*
*
gswitch drain2 source2 value { (if(v(drain2,source2)>0,
+   (cur*(-(Temp-25)*itc+atc)*log(1.0+exp(26*(v(gate,source2)-thr)))*
+	v(drain2,source2)/(1 + max(x0_0+x0_1*(v(gate,source2)+x0_2),0.2)*v(drain2,source2))),

+   (-cur*(-(Temp-25)*itc+atc)*log(1.0+exp(26*(v(gate,drain2)-thr)))*
+	v(source2, drain2)/(1 + max(x0_0+x0_1*(v(gate,drain2)+x0_2),0.2)*v(source2,drain2))))) }
*
*
R_drain2 drain2 drain {(1e-4)}
R_source2 source2 source {(1e-4)}
*
*
C_GS1	gate source		{372.3e-12}
E_IGS1	tl_gs1 bl_gs1	Value = { ( - 57.24e-12*(1-1./(1+exp(0.477*(-v(drain, source)+3.0))))
+                       	- 81.74e-12*(1-1./(1+exp(0.067*(-v(drain, source)+32.3))))
+                         	- 5.0e-12*(1-1./(1+exp(0.5*(-v(drain, source)+60.3))))
+                        	- 2.124e-12*(1-1./(1+exp(0.0177*(-v(drain, source)+600.03))))

+					 		- 5.19e-11*(-1+1./(1+exp(0.06*(-v(drain, source)+0.0))))
+				     		- 0.88e-10*(-1+1./(1+exp(0.4*(-v(drain, source)+0.4))))
+    				 		- 0.54e-11*(-1+1./(1+exp(0.2*(-v(drain, source)+35.1))))
+    				 		- 0.96e-11*(-1+1./(1+exp(0.0001*(-v(drain, source)+70.1)))) )*v(gate,source) }
V_INGS1 br_gs1 bl_gs1 	{0.0}
C_IGS1  br_gs1 tr_gs1 	{1.0e-6}
R_IGS1  tr_gs1 tl_gs1 	{1e-3}
F_IGS1  gate source 	V_INGS1 {1.0e6}
R_IGS12 bl_gs1 source 	{100Meg}
*
*
E_IGS2	tl_gs2 bl_gs2 	Value ={ ( 1.43e-010*log(1+exp(0.1*(v(gate,source)-0.5)))
+				      		+ 1.73e-010*log(1+exp(7.5*(v(gate,source)-1.55)))
+			          		- 2.03e-10*log(1+exp(0.7*(-v(gate,source)+4))) ) }
V_INGS2 br_gs2 bl_gs2 	{0.0}
C_IGS2  br_gs2 tr_gs2 	{1.0e-6}
R_IGS2  tr_gs2 tl_gs2 	{1e-3}
F_IGS2  gate source 	V_INGS2 {1.0e6}
R_IGS22 bl_gs2 source 	{100Meg}
*
*
C_GD    gate drain  	{3.6e-012}
E_IGD	tl_gd bl_gd		Value ={ ( 1.2e-10*log(1+exp(0.477*(v(gate, drain)+3)))
+					 		+ 15.2e-10*log(1+exp(0.0670*(v(gate, drain)+32.3)))
+					  		+ 0.1e-10*log(1+exp(0.50*(v(gate, drain)+20.3)))
+					  		+ 1.2e-10*log(1+exp(0.0177*(v(gate, drain)+600.03))) ) }
V_INGD 	br_gd bl_gd 	{0.0}
C_IGD  	br_gd tr_gd 	{1.0e-6}
R_IGD  	tr_gd tl_gd 	{1e-3}
F_IGD  	gate drain 		V_INGD {1.0e6}
R_IGD2 	bl_gd drain 	{100Meg}
*
*
C_SD	source drain  	{1.23e-010}
E_ISD	tl_sd bl_sd		Value = { ( 3e-10*log(1+exp(.3*(v(source,drain)+0.01)))
+							+ 5.31e-09*log(1+exp(.14*(v(source,drain)+66)))
+							+ 2.79e-9*log(1+exp(.06*(v(source,drain)+190)))
+							+ 8.66e-10*log(1+exp(.041*(v(source,drain)+300))) ) }
V_INSD 	br_sd bl_sd 	{0.0}
C_ISD  	br_sd tr_sd 	{1.0e-6}
R_ISD  	tr_sd tl_sd 	{1e-3}
F_ISD  	source drain	V_INSD {1.0e6}
R_ISD2 	bl_sd drain {100Meg}
*
*
.ends
*$